US07709518B2
To a stirred solution of 4-(2-Trifluoromethyl-benzoimidazol-1-yl)-benzaldehyde (0.58 g, 2 mmol) in acetone (25 mL) was added Jones's reagent (1.0 mL, 2.0 M) at 0° C. After stirring at room temperature for 2 h, the mixture was partitioned between EtOAc and saturated NaHCO3 solution. After usual workup, the crude material was separated by silica gel chromatography (50% Hexane/EtOAc to EtOAc) to afford the intermediate acid 4-(2-Trifluoromethyl-benzoimidazol-1-yl)-benzoic acid as a while solid (490 mg).

reactant | 4-(2-Trifluoromethyl-benzoimidazol-1-yl)-benzaldehyde | 2 mmol, 0.58 g | FC(C1=NC2=C(N1C1=CC=C(C=O)C=C1)C=CC=C2)(F)F | C15H9F3N2O
reactant | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-(2-Trifluoromethyl-benzoimidazol-1-yl)-benzoic acid | FC(C1=NC2=C(N1C1=CC=C(C(=O)O)C=C1)C=CC=C2)(F)F | C15H9F3N2O2
